US05576343
9.0 g of (6-cyano-1,2,3,4-tetrahydro-2-naphthyl)methyltriphenylphosphonium p-toluenesulfonate was suspended in 150 ml of tetrahydrofuran, followed by gradual addition of 600 mg of 60% sodium hydride. The thus prepared mixture was refluxed under heating for 20 minutes. After cooling down to room temperature, to the resulting reaction solution was added 10 ml of a tetrahydrofuran solution containing 4.16 g of ethyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-2-oxoacetate. The resulting reaction mixture was stirred for 10 minutes, and then refluxed under heating for 2 hours. After cooling down to room temperature, the reaction product thus obtained was dissolved in ethyl acetate, and washed with water and saturated sodium chloride aqueous solution in that order. After drying the resulting organic layer to distill off the solvent, the thus obtained residue was purified by subjecting it to silica gel column chromatography using a n-hexane/ethyl acetate mixture as an elution solvent, thereby obtaining 3.90 g of ethyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-3-(6-cyano-1,2,3,4-tetrahydro-2-naphthyl)acrylate in a yellow oily form as a mixture of E and Z forms. 2.58 g of the thus obtained E/Z mixture was dissolved in 40 ml of ethanol, and the resulting solution was mixed with 650 mg of palladium oxide.1H2O.barium sulfate, and then subjected to catalytic hydrogenation under normal pressure for 5 hours. After removing the catalyst by filtration and distilling off the solvent, the resulting residue was purified by subjecting it to silica gel column chromatography using a n-hexane/ethyl acetate mixture as an elution solvent. In this way, 1.69 g of the title compound was obtained in a yellow oily form.

reactant | (6-cyano-1,2,3,4-tetrahydro-2-naphthyl)methyltriphenylphosphonium p-toluenesulfonate | 9.0 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C(#N)C=1C=C2CCC(CC2=CC1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | sodium hydride | 600 mg | [H-].[Na+]
reactant | ethyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-2-oxoacetate | 4.16 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=CC=C(C=C1)C(C(=O)OCC)=O | C19H25NO6
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | ethyl 2-[4-[((3S)-1-tert-butoxycarbonyl-3-pyrrolidinyl)oxy]phenyl]-3-(6-cyano-1,2,3,4-tetrahydro-2-naphthyl)acrylate | 3.90 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=CC=C(C=C1)C(C(=O)OCC)=CC1CC2=CC=C(C=C2CC1)C#N | C31H36N2O5
